US06344459B1
1-3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1902 mg, 1 mmol) was added to a solution of 6-amino-4[(3-chlorophenyl)amino]quinazoline (136 mg, 0.5 mmol) acrylic acid (74 mg, 1.0 mmol) and pyridine (201 mg, 2.5 mmol) in THF/DMF (4:1, 2.5 mL), stirred under nitrogen at 0° C. After 20 minutes the reaction mixture was stirred at 25° C. for 3 hours, and then poured onto water (12.5 mL), and extracted with EtOAc (2×10 mL). The combined extracts were treated with dilute hydrochloric acid (0.5 M, 10 mL), and the precipitate was collected by Buchner filtration, rinsed with water (10 mL), ether (2×10 mL), and air dried to give N-[4-[(3-chlorophenyl)amino]quinazolin-6-yl] acrylamide hydrochloride (93 mg, 48%) as a dull yellow solid, mp 223-227° C.

reactant | 3-ethylcarbodiimide hydrochloride | 1 mmol, 1902 mg | Cl.C(C)N=C=N
reactant | 6-amino-4[(3-chlorophenyl)amino]quinazoline | 0.5 mmol, 136 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Cl | C14H11ClN4
reactant | pyridine | 2.5 mmol, 201 mg | N1=CC=CC=C1 | C5H5N
reactant | THF DMF | 2.5 mL | C1CCOC1.CN(C)C=O
product | N-[4-[(3-chlorophenyl)amino]quinazolin-6-yl] acrylamide hydrochloride | 93 mg, 48% | Cl.ClC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C)=O | InChI=1S/C17H13ClN4O.ClH/c1-2-16(23)21-13-6-7-15-14(9-13)17(20-10-19-15)22-12-5-3-4-11(18)8-12;/h2-10H,1H2,(H,21,23)(H,19,20,22);1H
